US05344843
A solution of alpha-oxo-4-hydroxybenzeneacetic acid methyl ester (2 g) and phenyl-bis-[(trifluoromethyl)sulfonyl]amine (4.2 g) in dichloromethane (30 mL) was cooled in an ice bath and triethylamine (1.65 mL) was added dropwise. The mixture was held at 0° C. for 1 hour and was allowed to warm to room temperature over 2 hours. It was diluted to 100 mL with diethyl ether and washed with successive 25 mL portions of water (twice), 0.5N sodium hydroxide, 0.5N hydrochloric acid, and saturated brine. Concentration of the dried (MgSO4) extract gave a mixture of an oil and a solid from which the oil was decanted to give 2.77 g of alpha-oxo-4-[[(trifluoromethyl)sulfonyl]oxy]benzeneacetic acid methyl ester suitable for use in the next step. The analytical sample was obtained as a colorless oil by chromatography of a portion over silica gel, eluting with ethyl acetate-hexane (9:1).

reactant | alpha-oxo-4-hydroxybenzeneacetic acid methyl ester | 2 g | COC(C(C1=CC=C(C=C1)O)=O)=O | C9H8O4
reactant | phenyl-bis-[(trifluoromethyl)sulfonyl]amine | 4.2 g | C1(=CC=CC=C1)N(S(=O)(=O)C(F)(F)F)S(=O)(=O)C(F)(F)F | C8H5F6NO4S2
reactant | triethylamine | 1.65 mL | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 30 mL | ClCCl | CH2Cl2
solvent | diethyl ether | C(C)OCC | C4H10O
product | alpha-oxo-4-[[(trifluoromethyl)sulfonyl]oxy]benzeneacetic acid methyl ester | 2.77 g | COC(C(C1=CC=C(C=C1)OS(=O)(=O)C(F)(F)F)=O)=O | C10H7F3O6S
